US07807709B2
D. (3R,4R)-3-({[4-Ethyl-3-(3-methoxy-propoxy)-benzoyl]-isopropyl-amino}-methyl)-4-methylaminomethyl-pyrrolidine-1-carboxylic acid tert-butyl ester
In a similar manner as described in Example 9 for the reaction step J, the following starting materials is prepared from (3R,4S)-3-({[4-ethyl-3-(3-methoxy-propoxy)-benzoyl]-isopropyl-amino}-methyl)-4-formyl-pyrrolidine-1-carboxylic acid tert-butyl ester (3.5 g, 6 mmol), methyl amine (0.93 mL, 30 mmol) and NaBH4 (0.454 g, 12 mmol) and purification by flash chromatography on silica gel (CH2Cl2/MeOH 1:1) to (CH2Cl2/MeOH/NH4OH 89:10:1) to give the title compound as colorless oil. TLC, Rf (CH2Cl2/MeOH/NH4OH 89:10:1)=0.29. MS (LC-MS): 506.2 [M+H]+; tR (HPLC, Macherey-Nagel Nucleosil C18 column, 10-100% CH3CN/H2O/5 min, 100% CH3CN/3 min, CH3CN and H2O containing 0.1% TFA, flow: 1.5 mL/min): 5.38 min.

reactant | (3R,4S)-3-({[4-ethyl-3-(3-methoxy-propoxy)-benzoyl]-isopropyl-amino}-methyl)-4-formyl-pyrrolidine-1-carboxylic acid tert-butyl ester | 6 mmol, 3.5 g | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)C=O)CN(C(C)C)C(C1=CC(=C(C=C1)CC)OCCCOC)=O | C27H42N2O6
reactant | methyl amine | 30 mmol, 0.93 mL | CN | CH5N
reactant | NaBH4 | 12 mmol, 0.454 g | [BH4-].[Na+]
reactant | CH2Cl2 MeOH NH4OH | C(Cl)Cl.CO.[NH4+].[OH-]
product | (3R,4R)-3-({[4-Ethyl-3-(3-methoxy-propoxy)-benzoyl]-isopropyl-amino}-methyl)-4-methylaminomethyl-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)CNC)CN(C(C)C)C(C1=CC(=C(C=C1)CC)OCCCOC)=O | C28H47N3O5
